US08809369B2
To a stirred mixture solution of 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (200 mg, 0.5 mmol) in methanol (10 mL) and tetrahydrofuran (10 mL) was added 30% sodium hydroxide in water (1.5 mL). The reaction mixture was stirred at 60° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (180 mg, 95%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=380.2.

reactant | 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.5 mmol, 200 mg | COC(=O)C=1C=CC=C2C(CC(NC12)C1=CC(=CC=C1)N1CCN(CC1)C)(C)C | C24H31N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 180 mg, 95% | CC1(CC(NC2=C(C=CC=C12)C(=O)O)C1=CC(=CC=C1)N1CCN(CC1)C)C | C23H29N3O2
